US04725600
To a solution of 6-(3,4-dimethoxyphenyl)-2-methyl-4-(2,4,6-trimethylphenylamino)pyrimidine (1.0 g) in N,N-dimethylformamide (15 ml) were added potassium tert-butoxide (0.37 g) and methyl iodide (0.34 ml), and the mixture was stirred at ambient temperature for 1.5 hours. Then the mixture was poured into ice-water (200 ml) and stirred for an hour. The precipitates were collected, washed with water, dried in the air, and recrystallized from ethanol to give 6-(3,4-dimethoxyphenyl)-2-methyl-4-[N-methyl-N-(2,4,6-trimethylphenyl)amino]pyrimidine (0.58 g).

reactant | 6-(3,4-dimethoxyphenyl)-2-methyl-4-(2,4,6-trimethylphenylamino)pyrimidine | 1.0 g | COC=1C=C(C=CC1OC)C1=CC(=NC(=N1)C)NC1=C(C=C(C=C1C)C)C | C22H25N3O2
reactant | potassium tert-butoxide | 0.37 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 0.34 ml | CI | CH3I
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 6-(3,4-dimethoxyphenyl)-2-methyl-4-[N-methyl-N-(2,4,6-trimethylphenyl)amino]pyrimidine | 0.58 g | COC=1C=C(C=CC1OC)C1=CC(=NC(=N1)C)N(C1=C(C=C(C=C1C)C)C)C | C23H27N3O2
